US04254135
2-(4-Chlorophenyl)-5-cyclohexyl-5,6-dihydro-4H-pyrrolo[3,4-d]oxazole Hydrochloride.
Two grams of trans-4-chloro-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)benzamide was dissolved in 50 ml of cold (0° C.) sulfonyl chloride; the solution was allowed to warm to room temperature and stirred overnight. Excess sulfonyl chloride was removed at 50° C./60 mm. Fifty milliliters of carbon tetrachloride was added to the residue and then evaporated under vacuum. When acetone was added to the residue, it crystallized to a white solid (quantitative yield). Recrystallization from absolute ethanol gave product, m.p. 303°-304° C.

reactant | trans-4-chloro-N-(1-cyclohexyl-4-hydroxy-3-pyrrolidinyl)benzamide | Two grams | ClC1=CC=C(C(=O)N[C@@H]2CN(C[C@H]2O)C2CCCCC2)C=C1 | C17H23ClN2O2
solvent | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 2-(4-Chlorophenyl)-5-cyclohexyl-5,6-dihydro-4H-pyrrolo[3,4-d]oxazole Hydrochloride | quantitative yield | Cl.ClC1=CC=C(C=C1)C=1OC2=C(N1)CN(C2)C2CCCCC2 | InChI=1S/C17H19ClN2O.ClH/c18-13-8-6-12(7-9-13)17-19-15-10-20(11-16(15)21-17)14-4-2-1-3-5-14;/h6-9,14H,1-5,10-11H2;1H
